US04111937
3-Amino-2,4,6-triiodo-5-(N-methyl-3,6,9-trioxadecanamido)benzoic Acid [C; Ro is H(CH2OCH2)3CON(CH3), Q is H, Z is OH] was prepared by methylation of 3-amino-2,4,6-triiodo-5-(3,6,9-trioxadecanamido)benzoic acid with dimethyl sulfate according to the procedure of Example 41, and was obtained as an amorphous pink solid, m.p. 100°-109° C. when recrystallized from methanol.

reactant | 3-amino-2,4,6-triiodo-5-(3,6,9-trioxadecanamido)benzoic acid | NC=1C(=C(C(=O)O)C(=C(C1I)NC(COCCOCCOC)=O)I)I | C14H17I3N2O6
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
product | 3-Amino-2,4,6-triiodo-5-(N-methyl-3,6,9-trioxadecanamido)benzoic Acid | NC=1C(=C(C(=O)O)C(=C(C1I)N(C(COCCOCCOC)=O)C)I)I | C15H19I3N2O6
